US04268509
Preparation of 5-Formamido-3-(2-methylthio-2-methylsulfinylacetyl)-1,2,4-thiadiazole
To a mixture of methyl 5-formamido-1,2,4-thiadiazole-3-carboxylate (9.2 g) and methyl methylthiomethyl sulfoxide (6.1 g) in N,N-dimethylformamide (100 ml) was added 50% sodium hydride (7.1 g) with cooling in an ice-bath. The mixture was stirred for an hour at ambient temperatures and for an additional one hour at 40° C. After cooling to ambient temperature, methylene chloride (300 ml) was added to the reaction mixture, and the resulting precipitates were collected by filtration and washed with methylene chloride. The precipitates were added to a stirred mixture of hydrochloric acid (14.7 ml), ice-water (200 ml) and methylene chloride (200 ml). An insoluble material was filtered off and the methylene chloride layer was separated from the filtrate. The solution was dried over anhydrous magnesium sulfate, evaporated and the residue was triturated with diethyl ether to give the title compound (4.5 g), m.p. 130° to 132° C.

reactant | methyl 5-formamido-1,2,4-thiadiazole-3-carboxylate | 9.2 g | C(=O)NC1=NC(=NS1)C(=O)OC | C5H5N3O3S
reactant | methyl methylthiomethyl sulfoxide | 6.1 g | CSCS(=O)C | C3H8OS2
reactant | sodium hydride | 7.1 g | [H-].[Na+]
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Formamido-3-(2-methylthio-2-methylsulfinylacetyl)-1,2,4-thiadiazole | 4.5 g | C(=O)NC1=NC(=NS1)C(C(S(=O)C)SC)=O | C7H9N3O3S3
